US07399759B2
tert-Butyl 2-pyridylmethylcarbamate N-oxide
tert-Butyl 2-pyridylmethylcarbamate (11.4 g, 54 mmol) and 3-chloroperbenzoic acid (77%, 5.9 g, 71 mmol) were dissolved in ethyl acetate (150 ml), and the mixture was stirred at room temperature for 15 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with methanol-ethyl acetate (1:5, v/v) were collected and concentrated to give the titled compound (11.1 g, 90%).

reactant | tert-Butyl 2-pyridylmethylcarbamate | 54 mmol, 11.4 g | N1=C(C=CC=C1)CNC(OC(C)(C)C)=O | C11H16N2O2
reactant | 3-chloroperbenzoic acid | 71 mmol, 5.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 2-pyridylmethylcarbamate N-oxide | 11.1 g, 90% | N1=C(C=CC=C1)C[NH+](C(OC(C)(C)C)=O)[O-] | C11H16N2O3
